US05409936
A mixture of ethyl 2-n-propyl-3-[2'-(1-trityl-1 H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (2.00 g), potassium carbonate (1.16 g), ethyl bromide (0.61 g) and dimethylformamide (10 ml) is stirred overnight at room temperature. The mixture is diluted with ethyl acetate, and the solution is washed with water, dried and evaporated. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 5-ethyl-2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (1.12 g) as a white foam.

reactant | ethyl 2-n-propyl-3-[2'-(1-trityl-1 H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 2.00 g | C(CC)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H43N7O2
reactant | potassium carbonate | 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 0.61 g | C(C)Br | C2H5Br
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-ethyl-2-n-propyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 1.12 g | C(C)N1C(C2=C(CC1)N=C(N2CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC)C(=O)OCC | C47H47N7O2
